US08084448B2
C. 5-[4-(2-Aminomethylbenzyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-benzonitrile in EtOH/water (1:1) is hydrogenated at 1 atm over 10% Pd/C for 40 min. The catalyst is filtered, the solvent evaporated and the residue purified by preparative HPLC to give the title compound.

reactant | 2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-benzonitrile | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C#N)C=CC=C2)C=CC1N1S(NC(C1)=O)(=O)=O | C23H19N3O4S
solvent | EtOH water | CCO.O
catalyst | Pd/C | [Pd] | Pd
product | 5-[4-(2-Aminomethylbenzyl)-2-hydroxyphenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | NCC1=C(CC2=CC(=C(C=C2)N2CC(NS2(=O)=O)=O)O)C=CC=C1 | C16H17N3O4S
